US05405865
5-methoxymethyl-2-furanmethanol.
6.4 g of 2,5-furandimethanol were dissolved at 20° C. in 120 ml of tetrahydrofuran and 2.4 g of sodium hydride were added over 30 minutes. The mixture was stirred for 2 hours and 60 ml of dimethylformamide and 4.7 ml of dimethyl sulfate were added. The mixture was stirred for 16 hours at 20° C., poured into ice-cold water and acidified with hydrochloric acid. The mixture was extracted with isopropyl ether and the extract was washed with water and dried. The solvent was evaporated and the residue was chromatographed on silica (eluent: 5/5 hexane/ethyl acetate) to obtain 2.97 g of the expected product.

reactant | 2,5-furandimethanol | 6.4 g | O1C(=CC=C1CO)CO | C6H8O3
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | dimethyl sulfate | 4.7 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 5-methoxymethyl-2-furanmethanol | 2.97 g | COCC1=CC=C(O1)CO | C7H10O3
